US07943609B2
A solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (5.0 g, 22.6 mmol) in 50 mL of dry DMF was cooled to 0° C. under an atmosphere of N2. Triethylamine (6.3 mL, 45.2 mmol) and L-alaninol (2.1 mL, 27.1 mmol) were added sequentially. After approximately 15 minutes, the reaction was allowed to warm to ambient temperature, and then heated to 35° C. for 3 days. The reaction mixture was concentrated under reduced pressure to give an orange-brown solid. The resulting solid was partitioned between 50 mL of ethyl acetate and 50 mL of H2O. The layers were separated and the organic portion was washed sequentially with H2O and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. Chromatography (SiO2, 40-60% ethyl acetate/hexanes) afforded (2S)-2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]propan-1-ol (3.62 g) as an orange solid.

reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 22.6 mmol, 5.0 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | Triethylamine | 45.2 mmol, 6.3 mL | C(C)N(CC)CC | C6H15N
reactant | L-alaninol | 27.1 mmol, 2.1 mL | N[C@@H](C)CO | C3H9NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (2S)-2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]propan-1-ol | 3.62 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])N[C@H](CO)C)C)C | C10H14ClN3O3
